Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.5763721024
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:11].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:12][H:13],4.12824567766
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:3].[O:1]=[C:2][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.844249344730002
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[C:7]([H:8])[H:9],8.213464232289999
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.7369270638999998
[C:1]#[C:2][C@@:3]([O:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],0.852006932296
[C:2][C:5]([H:3])([H:4])[C:10]([H:11])([H:12])[H:13].[H:1][C:7]([C:6])([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-9.06159679
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2],10.70062549
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-2.48263554536
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])\[C:10]([H:11])=[C:12]\[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16],-1.7136091145200003
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15],-5.355652910380001
[C:7]([H:8])[H:9].[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.7162062240900005
[O:1]=[C:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])[O:6][H:7].[O:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11],3.99880183259
[H:5].[O:1]=[C:2]([C:3][H:4])[C:6]([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])=[C:10][H:11],-4.87606609282
[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1].[O:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10],3.96528143623
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:4][C:7][C:8]([H:9])[H:10].[H:1][C:6]([H:3])([C:5])[H:11],7.0407404163
[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-4.98068097453
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18],-1.92598110029
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13],0.96139543269
[C:3]([H:4])=[C:5]([H:6])[O:7][H:8].[O:1]=[C:2]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-1.65940875965
[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.01738615516
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2][C@@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.64469963732
[C:1]=[C:2]([H:3])[C@@:10]([C:7]([C:4]([H:5])[H:6])([H:8])[H:9])([H:11])[O:12][H:13]>>[C:1][C@:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[O:12][H:13],-0.2242494616
[H:1][O:2][C:3]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.11206333201
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2][O:3][C:4][H:5],4.42359036724
[C:2]([H:3])([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[O:1]>>[O:1][C:2]([H:3])([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.105829139080002
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-1.3553386238
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9],4.10682613368
